US07205306B2
4-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-6-(1-ethylpropylamino)-5-formyl-2-methylpyrimidine, (50 mg, 0.13 mmol) was stirred with NaBH4 (7 mg, 0.2 mmol) in dry ethanol (2 mL) at 0° C. for 2 h. The reaction was partitioned between EtOAc (100 mL) and water (20 mL) and the EtOAc was washed with brine, dried (MgSO4) and stripped in vacuo. The residue was chromatographed on silica gel using 40% EtOAc/hexanes to give the product, 4-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-6-(1-ethylpropylamino)-5-hydroxymethyl-2-methylpyrimidine (40 mg, 80% yield).

reactant | 4-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-6-(1-ethylpropylamino)-5-formyl-2-methylpyrimidine | 0.13 mmol, 50 mg | ClC=1C=C2CCN(C2=C(C1)Cl)C1=NC(=NC(=C1C=O)NC(CC)CC)C | C19H22Cl2N4O
reactant | NaBH4 | 0.2 mmol, 7 mg | [BH4-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-6-(1-ethylpropylamino)-5-hydroxymethyl-2-methylpyrimidine | 40 mg, 80% yield | ClC=1C=C2CCN(C2=C(C1)Cl)C1=NC(=NC(=C1CO)NC(CC)CC)C | C19H24Cl2N4O
